US08791303B2
Preparation of 5-(Cycloheptyl-hydroxy-methyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone
To a stirred solution of 3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (0.46 g, 2.0 mmol) in anhydrous THF (20 ml) at −78 C under an N2 atmosphere was added dropwise a solution of lithium diisopropylamide (1.22 ml of a 1.8M solution in THF/heptanes/ethyl benzene, 2.2 mmol). The reaction was stirred at −78 C for 90 minutes and then a solution of cycloheptanecarbaldehyde (316 mg, 2.5 mmol) in anhydrous THF (3 ml) was added dropwise. The reaction was stirred at −78 C for a further 30 minutes and then allowed to warm to room temperature over 30 minutes. The reaction was quenched by addition of H2O (25 ml) and extracted with EtOAc (3×20 ml). The combined organic extracts were washed with brine (15 ml), dried over MgSO4, filtered and evaporated to dryness under reduced pressure to give a brown oil (628 mg). The crude material was purified by flash chromatography over SiO2 using a 100% isohexane to 100% EtOAc gradient to give the desired product as a colourless oil (101 mg).

reactant | 3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 2.0 mmol, 0.46 g | COC1=C(C(CC1)=O)C1=C(C=C(C=C1C)C)C | C15H18O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | cycloheptanecarbaldehyde | 2.5 mmol, 316 mg | C1(CCCCCC1)C=O | C8H14O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-(Cycloheptyl-hydroxy-methyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 628 mg | C1(CCCCCC1)C(C1CC(=C(C1=O)C1=C(C=C(C=C1C)C)C)OC)O | C23H32O3
